US07034183B2
(S)-2-(Acetyloxy)propanoyl chloride (16.5 g, 110 mmol) is added, over 20 min, to a stirred solution of N,N′-bis[2-acetyloxy-1-[(acetyloxy)methyl]ethyl]-5-amino-2,4,6-triiodo-1,3-benzenedicarboxamide (53.3 g, 61.1 mmol) in N,N-dimethylacetamide (75 mL) while keeping the temperature of the reaction mixture below 30° C. A further amount of (S)-2-(acetyloxy)propanoyl chloride (0.9 g, 6.0 mmol) is added after 24 and 30 hours and the reaction mixture is stirred at the same temperature for additional 15 hours. 5 M NaOH (90 mL, 450 mmol) is dripped over a period of 2 hours into the reaction mixture vigorously stirred at 45° C. After two hours the mixture is concentrated under vacuum and reintegrated with additional N,N-dimethylacetamide (200 mL). After two hours at room temperature the resulting suspension is filtered and the solid washed with N,N-dimethylacetamide (2×20 mL). The mother liquors, combined with the washings, are concentrated to an oily residue, which is diluted with water (200 mL) and nanofiltered. The retentate is loaded onto an Amberlite® XAD-16.00 resin column (160 mL) that is eluted with water. The eluate is concentrated and loaded onto two ion exchange resin columns (Dowex® C350 15 mL, Relite® MG1 10 mL). The eluate is concentrated and the solid residue is crystallized from ethanol to afford Iopamidol (41.2 g, 53 mmol).

reactant | (S)-2-(Acetyloxy)propanoyl chloride | 110 mmol, 16.5 g | C(C)(=O)O[C@H](C(=O)Cl)C | C5H7ClO3
reactant | N,N′-bis[2-acetyloxy-1-[(acetyloxy)methyl]ethyl]-5-amino-2,4,6-triiodo-1,3-benzenedicarboxamide | 61.1 mmol, 53.3 g | C(C)(=O)OCC(COC(C)=O)NC(=O)C1=C(C(=C(C(=C1I)N)I)C(=O)NC(COC(C)=O)COC(C)=O)I | C22H26I3N3O10
reactant | (S)-2-(acetyloxy)propanoyl chloride | 6.0 mmol, 0.9 g | C(C)(=O)O[C@H](C(=O)Cl)C | C5H7ClO3
reactant | NaOH | 450 mmol, 5 M, 90 mL | [OH-].[Na+]
solvent | N,N-dimethylacetamide | 75 mL | CN(C(C)=O)C | C4H9NO
product | Iopamidol | 53 mmol, 41.2 g, Yield: 87% | C[C@@H](C(=O)NC=1C(=C(C(=C(C1I)C(=O)NC(CO)CO)I)C(=O)NC(CO)CO)I)O | C17H22I3N3O8
